US04837003
A mixture of 6-bromohexylcyanide (13.88g, 0.073 mol), bis(2-phthalimidoethyl)amine (26.52g, 0.073 mol), and triethylamine (7.37g, 0.073 mol) in DMF (120 ml) was heated at 100° C. for 20 hours. After cooling, the precipitate which had formed was removed by filtration and the filtrate was poured into ice (1000 ml). The aqueous solution was extracted with dichloromethane (3×200 ml). The combined organic extracts were washed with brine and dried over Na2SO4. Removal of the solvent under reduced pressure gave crude product which was chromatographed on silica gel (hexanes - 30% ethyl acetate/hexanes gradient elution). Impure fractions were rechromatographed to provide a total of 14.1g of (6-cyanohexyl)bis(2-phthalimidoethyl)amine (41%) as an oil. The produce was one spot on tlc. The ir spectrum was consistent with the assigned structure.

reactant | 6-bromohexylcyanide | 0.073 mol, 13.88g | BrCCCCCCC#N | C7H12BrN
reactant | bis(2-phthalimidoethyl)amine | 0.073 mol, 26.52g | C1(C=2C(C(N1CCNCCN1C(C=3C(C1=O)=CC=CC3)=O)=O)=CC=CC2)=O | C20H17N3O4
reactant | triethylamine | 0.073 mol, 7.37g | C(C)N(CC)CC | C6H15N
solvent | DMF | 120 ml | CN(C)C=O | C3H7NO
product | (6-cyanohexyl)bis(2-phthalimidoethyl)amine | 14.1g, 41% | C(#N)CCCCCCN(CCN1C(C=2C(C1=O)=CC=CC2)=O)CCN2C(C=1C(C2=O)=CC=CC1)=O | C27H28N4O4
